### PR TITLE
feat(Combinatorics/SimpleGraph/Connectivity): efficient decidability instances

### PR DESCRIPTION
**Pull request by YaelDillies**
Currently, the `DecidableRel G.Reachable` instance provided by mathlib works by enumerating *all* walks from `u` to `v` of length less than `Fintype.card V`, which takes time exponential in the number of vertices. Currently also, the `Decidable G.Preconnected` and `Decidable G.Connected` instances build on the `DecidableRel G.Reachable` one and suffer from the same exponential slowdown.

This PR reworks those instances to use breadth-first search, which is polynomial in the number of vertices. Since the BFS doesn't depend on the starting vertex, we wrap it in `Trunc` to cut down an unnecessary factor of `Fintype.card V` (this makes a difference only if the graph is NOT preconnected).

This showed up in FormalConjectures because a contributor used `decide +native` to prove that some concrete graph on 11 vertices was connected. Their proof timed out while I was bumping the repo to v4.30.

Also make `G` implicit in a bunch of non-rewriting lemmas.

From FormalConjectures

Generated by Claude Opus following my idea, largely rewritten manually afterwards.

Assisted-by: Claude Opus 4.8

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by b-mehta** [comment]
marking this awaiting-author for the changes we discussed in person

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Finite.lean [hunk 1]
```diff
@@ -33,12 +27,184 @@ universe u v w
...
+      | u :: l, hl => decidable_of_iff _ (preconnected_iff_forall_mem_bfsList hl u).symm)
+    fun _ _ ↦ Subsingleton.elim ..
+
+/-- Decides connectedness of `G` by checking whether the vertex set is empty and, if not,
+by performing a breadth-first search from an arbitrarily chosen vertex. -/
+instance decidableConnected : Decidable G.Connected :=
+  (Fintype.truncList V).lift
+    (fun ⟨l, hl⟩ ↦ match l, hl with
+      | [], hl => isFalse fun hG ↦ absurd (hl hG.nonempty.some) (by simp)
+      | u :: l, hl => decidable_of_iff _ (connected_iff_forall_mem_bfsList hl u).symm)
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/Finite.lean]: I'm not sure if it matters too much, but I'd conjecture that checking the length of a list is faster than checking membership. i.e.
`(G.bfsList u l).length = l.length`
instead of
`∀ v, v ∈ G.bfsList u l`
since the membership criterion seems quadratic instead of linear.

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/Finite.lean]: Yes, you are right. I initially didn't do it because it was more annoying (you need to track `Nodup` on the accumulator) and it doesn't change the leading term in the complexity, but in practice it seems to reduce running time by 10-20%

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Finite.lean [hunk 2]
```diff
@@ -33,12 +27,260 @@ universe u v w
...
+private lemma Reachable.mem_of_forall_adj_mem (huv : G.Reachable u v)
+    (hs : ∀ x ∈ s, ∀ y, G.Adj x y → y ∈ s) : u ∈ s → v ∈ s := by
+  obtain ⟨p⟩ := huv
+  induction p with
+  | nil => exact id
+  | cons hxy _ ih => exact fun hu ↦ ih (hs _ hu _ hxy)
+
+/-- One round of breadth-first search: `G.bfsStep s l acc` prepends to `acc` the vertices of the
+list `l` of vertices remaining to be visited that are adjacent to some vertex of the frontier `s`,
+namely the vertices getting visited during this round. -/
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/Finite.lean]:
```suggestion
/-- One round of breadth-first search: `G.bfsStep s l acc` prepends to `acc` the vertices of the
list `l` of vertices remaining to be visited that are adjacent to some vertex of the frontier `s`,
namely the vertices getting visited during this round.
This is intended to be used for the decidability instance for connectivity for the `decide` tactic.
-/
```
I think it's worth including something like this here, to make it clear that this is (reasonably) efficient from the kernel pov and not designed to be efficient from the evaluation pov. In particular to guard against someone doing a future refactor to make it faster in evaluation but destroy the titular point of your work!

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Finite.lean [hunk 3]
```diff
@@ -33,12 +27,260 @@ universe u v w
...
+    ∀ {l acc}, G.bfsStep s l acc = (l.filter fun w ↦ s.any (G.Adj · w)).reverse ++ acc
+  | [], acc => by simp [bfsStep]
+  | x :: l, acc => by
+    rw [bfsStep, bfsStep_eq_reverse_filter_append, List.filter_cons]
+    split <;> simp
+
+lemma nodup_bfsStep_append (hl : l.Nodup) (hacc : acc.Nodup) (h : ∀ x ∈ l, x ∉ acc) :
+    (G.bfsStep s l [] ++ acc).Nodup := by
+  rw [bfsStep_eq_reverse_filter_append, List.append_nil]
+  exact List.Nodup.append (List.nodup_reverse.2 (hl.filter _)) hacc fun x hx hx' ↦
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/Finite.lean]:
```suggestion
  exact (List.nodup_reverse.2 (hl.filter _)).append hacc fun x hx hx' ↦
```
never thought i'd see you avoiding dot notation!

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/Finite.lean]: My Claude... 🫣

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Finite.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/Finite.lean]: Hopefully the regression tests would catch such a misled refactor, but I agree

**Comment by YaelDillies** [comment]
Please disregard the CI failure. It is the post-build step.
